US09382236B2
(4) 1-[4-(2,3-Dimethylbenzoyl)aminophenyl]-6-methyl-1H-1,5-benzodiazepine-2,4(3H,5H)-dione
2,3-Dimethylbenzoic acid (21 mg, 0.140 mmol) was made into acid chloride in a conventional manner. By using 1-(4-aminophenyl)-6-methyl-1H-1,5-benzodiazepine-2,4(3H,5H)-dione (20 mg, 0.071 mmol) mentioned above, and 2,3-dimethylbenzoyl chloride mentioned above, the title compound (27 mg, yield 92%) was obtained in the same manner as that of Example 1.

reactant | 2,3-Dimethylbenzoic acid | 0.140 mmol, 21 mg | CC1=C(C(=O)O)C=CC=C1C | C9H10O2
reactant | 1-(4-aminophenyl)-6-methyl-1H-1,5-benzodiazepine-2,4(3H,5H)-dione | 0.071 mmol, 20 mg | NC1=CC=C(C=C1)N1C(CC(NC2=C1C=CC=C2C)=O)=O | C16H15N3O2
reactant | 2,3-dimethylbenzoyl chloride | CC1=C(C(=O)Cl)C=CC=C1C | C9H9ClO
product | 1-[4-(2,3-Dimethylbenzoyl)aminophenyl]-6-methyl-1H-1,5-benzodiazepine-2,4(3H,5H)-dione | 27 mg, yield 92% | CC1=C(C(=O)NC2=CC=C(C=C2)N2C(CC(NC3=C2C=CC=C3C)=O)=O)C=CC=C1C | C25H23N3O3
